US07384934B2
1,5-Dihydro-benzo[b][1,4]diazepine-2,3,4-trione 3-(O-methyl-oxime)
Dissolve 21 wt % NaOEt in EtOH solution (164 g, 0.507 mol) in 2B-3 ethanol (331 mL) and add 1,2-phenylenediamine (27.4 g, 0.253 mol). Stir the resulting mixture allow to stir at ambient temperature for approximately 30 minutes during which time all the solid material dissolves producing a dark amber solution. Add 2-methoxyimino-malonic acid diethyl ester (51.5 g, 0.253 mol). Heat the resulting mixture to 70° C. and stir under nitrogen for approximately 4 hours monitoring by HPLC analysis (Zorbax RX C18, 55% ACN/45% 0.1% TFA, 1 mL/min, 233 nm). Allow the reaction mixture to cool to ambient temperature. Lower the pH of the reaction mixture from 11.6 to 1.2 by the addition of 700 mL of aqueous 1N HCl solution. Concentrate the reaction mixture in vacuo to remove the ethanol. Filter the resulting amber slurry through a glass frit. Collect the solid and rinse with aqueous 1N HCl and dry under vacuum at 50° C. to afford 42 g (76% yield) of the title compound as a yellow solid; 1H NMR (300 MHz, CDCl3) δ 11.1 (s, 1H), 10.9 (s, 1H), 7.22 (s, 4H), 3.86 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.7; 159.4, 148.1, 128.5, 127.8, 125.8, 125.7, 122.8, 122.7, 63.1; IR (CHCl3) 3062, 2970, 2902, 1704, 1656, 1606, 1505, 1414, 1058, 1043, 754 cm−1; UV (EtOH) λmax 278 nm (ε 4623), 276 nm (ε 4618), 216 nm (ε 41495); HRMS (ES+) exact mass calc'd for C10H9N3O3 242.0542, Found 242.0553; Anal. calc'd for C10H9N3O3: C, 54.79; H, 4.14; N, 19.17. Found: C, 54.60; H, 4.15; N, 18.94.

reactant | NaOEt | CC[O-].[Na+]
reactant | 1,2-phenylenediamine | 0.253 mol, 27.4 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 2-methoxyimino-malonic acid diethyl ester | 0.253 mol, 51.5 g | C(C)OC(C(C(=O)OCC)=NOC)=O | C8H13NO5
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 331 mL | C(C)O | C2H6O
solvent | EtOH | 0.507 mol, 164 g | CCO | C2H6O
solvent | ACN | C(C)#N | C2H3N
product | 1,5-Dihydro-benzo[b][1,4]diazepine-2,3,4-trione 3-(O-methyl-oxime) | 42 g, 76% yield | CON=C1C(NC2=C(NC1=O)C=CC=C2)=O | C10H9N3O3
